US05451607
To a solution of LDA in THF (1 liter), which had been prepared from diisopropylamine (35 g) and a 1.6M solution of n-butyl lithium in hexane (216 ml), was added dropwise a solution of ethyl 2-(4-chlorophenyl)propionate (70 g) in THF (100 ml) which had been obtained in paragraph 1), at a temperature of -45° to -40° C. under an atmosphere of nitrogen gas. At the same temperature, the reaction mixture was stirred for 0.5 hours, and m-chlorobenzyl chloride (55.7 g) was added dropwise thereto. The mixture was subjected to the same post-treatment as described in paragraph 1), and the residue was dissolved in ethanol (700 ml). To this solution was added dropwise 40% aqueous sodium hydroxide (40 ml), followed by heating under reflux for 5 hours. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure. The resulting residue was added dropwise to 10% aqueous hydrochloric acid under ice-cooling, and extracted several times with dichloromethane. The extract was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting crystalline residue was washed with hexane to give 2 -(3-chlorobenzyl)-2-(4-chlorophenyl)propionic acid (yield, 93 g) as white crystals, m.p., 154.8° C.

reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | diisopropylamine | 35 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | ethyl 2-(4-chlorophenyl)propionate | 70 g | ClC1=CC=C(C=C1)C(C(=O)OCC)C | C11H13ClO2
reactant | m-chlorobenzyl chloride | 55.7 g | ClC=1C=C(CCl)C=CC1 | C7H6Cl2
reactant | sodium hydroxide | 40 ml | [OH-].[Na+]
solvent | THF | 1 liter | C1CCOC1 | C4H8O
solvent | hexane | 216 ml | CCCCCC | C6H14
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | ethanol | 700 ml | C(C)O | C2H6O
product | 2 -(3-chlorobenzyl)-2-(4-chlorophenyl)propionic acid | 93 g | ClC=1C=C(CC(C(=O)O)(C)C2=CC=C(C=C2)Cl)C=CC1 | C16H14Cl2O2
